US04138580
An autoclave made of stainless steel, equipped with a magnetic rotary stirrer and having a capacity of 500 ml., was charged with 1.5 g. of 2 wt.% Pd on carbon, 38 mmoles of butyl nitrite, 75 ml. of n-butanol and 75 ml. of dibutyl adipate. After sealing the autoclave, 43 atm. of ethylene and 19 atm. of carbon monoxide were pressured thereinto and heated. The reaction was carried out at 105° C. for 1 hour without the addition of oxygen. After completion of the reaction, the reaction mixture was analyzed to show that 18.0 mmoles of dibutyl succinate and 4.3 mmoles of dibutyl oxalate were produced.

reactant | butyl nitrite | 38 mmoles | N(=O)OCCCC | C4H9NO2
reactant | dibutyl adipate | C(CCCCC(=O)OCCCC)(=O)OCCCC | C14H26O4
reactant | ethylene | C=C | C2H4
reactant | carbon monoxide | [C]=O | CO
reactant | oxygen | O=O | O2
reactant | dibutyl succinate | 18.0 mmoles | C(CCC(=O)OCCCC)(=O)OCCCC | C12H22O4
catalyst | Pd on carbon | [Pd] | Pd
solvent | n-butanol | C(CCC)O | C4H10O
product | dibutyl oxalate | 4.3 mmoles | C(C(=O)OCCCC)(=O)OCCCC | C10H18O4
